US06326359B1
(2R,3R,4S,5R)-2-[2-[(Cyclohexylamino)methyl]-6-(phenethylamino)-9H-purin-9-yl]-5-(methoxymethyl)tetrahydro-3,4-furandiol
Sodium triacetoxyborohydride (154 mg, 0.72 mmol) was added to a stirred solution of (2R,3R,4S,5R)-2-[2-(aminomethyl)-6-(phenethylamino)-9H-purin-9-yl]-5-(methoxymethyl)tetrahydro-3,4-furandiol (200 mg, 0.48 mmol) (preparation 48), acetic acid (30 mg, 0.48 mmol) and cyclohexanone (45 mg, 0.46 mmol). The reaction mixture was stirred for 24 hr at room temperature and the solvent then removed under reduced pressure. The residue was then azeotroped with dichloromethane before purification by column chromatography on silica gel eluting with a solvent system of dichloromethane:methanol:ammonia (93:7:0.3) to give the title compound (110 mg) as a viscous oil. MS: 497 (MH+).

reactant | Sodium triacetoxyborohydride | 0.72 mmol, 154 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | (2R,3R,4S,5R)-2-[2-(aminomethyl)-6-(phenethylamino)-9H-purin-9-yl]-5-(methoxymethyl)tetrahydro-3,4-furandiol | 0.48 mmol, 200 mg | NCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)COC)NCCC1=CC=CC=C1 | C20H26N6O4
reactant | acetic acid | 0.48 mmol, 30 mg | C(C)(=O)O | C2H4O2
reactant | cyclohexanone | 0.46 mmol, 45 mg | C1(CCCCC1)=O | C6H10O
product | (2R,3R,4S,5R)-2-[2-[(Cyclohexylamino)methyl]-6-(phenethylamino)-9H-purin-9-yl]-5-(methoxymethyl)tetrahydro-3,4-furandiol | 110 mg | C1(CCCCC1)NCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)COC)NCCC1=CC=CC=C1 | C26H36N6O4
